US05610144
tert-Butyl (2S,5R)-1-(2-tert-butoxycarbonylaminoacetyl)-5-phenylprolinate may be obtained as per Example 2 B, but starting from a solution containing 8 g of tert-butyl (2S,5R)-5-phenylprolinate, 5.7 g of 2-tert-butoxycarbonylaminoacetic acid and 6.7 g of N,N'-dicyclohexylcarbodiimide in 75 cm3 of anhydrous acetonitrile. 10.5 g of tert-butyl (2S,5R)-1-(2-tert-butoxycarbonylaminoacetyl)-5-phenylprolinate, melting at 136° C., [α]D20 +19.1°±0.8° (C=0.64; methanol), are thus obtained.

reactant | tert-butyl (2S,5R)-5-phenylprolinate | 8 g | C1(=CC=CC=C1)[C@H]1CC[C@H](N1)C(=O)OC(C)(C)C | C15H21NO2
reactant | 2-tert-butoxycarbonylaminoacetic acid | 5.7 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N,N'-dicyclohexylcarbodiimide | 6.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methanol | CO | CH4O
solvent | acetonitrile | 75 cm3 | C(C)#N | C2H3N
product | tert-butyl (2S,5R)-1-(2-tert-butoxycarbonylaminoacetyl)-5-phenylprolinate | 10.5 g | C(C)(C)(C)OC(=O)NCC(=O)N1[C@H](C(=O)OC(C)(C)C)CC[C@@H]1C1=CC=CC=C1 | C22H32N2O5
